US05556864
4.29 g of this ethyl 3-(2-naphthyl)-2-propenoate were dissolved in 60 ml of ethanol. The solution was stirred at room temperature for 3 hours in an atmosphere of hydrogen at atmospheric pressure and in the presence of 500 mg of 5% w/w palladium-on-charcoal. At the end of this time, the catalyst was removed by filtration, and the filtrate was concentrated by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 4.04 g (yield 93%) of ethyl 3-(2-naphthyl)propionate as a colorless oil.

reactant | ethyl 3-(2-naphthyl)-2-propenoate | 4.29 g | C1=C(C=CC2=CC=CC=C12)C=CC(=O)OCC | C15H14O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | ethyl 3-(2-naphthyl)propionate | 4.04 g, yield 93% | C1=C(C=CC2=CC=CC=C12)CCC(=O)OCC | C15H16O2
